US05482967
To a solution of 6-chloro-2-oxo-4-phenyl-2H-1-benzopyran-3-carboxylic acid ethyl ester (4.4 g) in ethanol (300 ml) was added platinum oxide (0.30 g), followed by stirring at room temperature in a hydrogen atmosphere (3 to 4 atm) for 3 hours. After the catalyst was filtered off, the filtrate was distilled to remove the solvent, followed by treatment of the residue with isopropyl ether, to yield 6-chloro-3,4-dihydro-2-oxo-4-phenyl-2H-1-benzopyran-3-carboxylic acid ethyl ester as colorless crystals (2.24 g).

reactant | 6-chloro-2-oxo-4-phenyl-2H-1-benzopyran-3-carboxylic acid ethyl ester | 4.4 g | C(C)OC(=O)C=1C(OC2=C(C1C1=CC=CC=C1)C=C(C=C2)Cl)=O | C18H13ClO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | platinum oxide | 0.30 g | [Pt]=O
product | 6-chloro-3,4-dihydro-2-oxo-4-phenyl-2H-1-benzopyran-3-carboxylic acid ethyl ester | 2.24 g | C(C)OC(=O)C1C(OC2=C(C1C1=CC=CC=C1)C=C(C=C2)Cl)=O | C18H15ClO4
